US05084458
20 g of 2,5-dimethylpyridine were dissolved in 100 ml of glacial acetic acid and then stirred for 5 hours at 80° to 90° C. with 35 ml of 30% H2O2. The excess glacial acetic acid was rotated out and the solution adjusted to pH 8 with 20% NaOH. After extracting with petrol and discarding the organic phase, the solution was extracted with dichloromethane and the organic phase rotated in. 12 g of 2,5-dimethylpyridine-N-oxide were obtained.

reactant | 2,5-dimethylpyridine | 20 g | CC1=NC=C(C=C1)C | C7H9N
reactant | H2O2 | 35 ml | OO | H2O2
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2,5-dimethylpyridine-N-oxide | 12 g | CC1=[N+](C=C(C=C1)C)[O-] | C7H9NO
